US04107235
333.9 grams n-butyl acrylate
In a mixture of diisopropyl benzene, isopropyl acetyl acetophenone, and dimethyl isopropyl phenyl carbinol

reactant | isopropyl acetyl acetophenone | C(C)(C)C(C(=O)C1=CC=CC=C1)C(C)=O | C13H16O2
reactant | dimethyl isopropyl phenyl carbinol | COC(C1=CC=CC=C1)(C(C)C)C | C12H18O
solvent | diisopropyl benzene | C(C)(C)C1=C(C=CC=C1)C(C)C | C12H18
product | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
